US09216975B2
Preparation of 1-(4-fluorobenzyl)-3-(2,3-dihydro-2-oxo-1H-benzo[d]imidazol-4-yl)urea
Commercially available p-fluorobenzylamine (0.76 ml, 6.7 mmol) was dissolved in 40 ml of AcOEt and at 0° C. triphosgene (1.98 g, 1 equiv.) was added to the solution. The mixture was warmed at 80° C. for 4 hours then evaporated and the residue was dissolved in 20 ml of DMF. The solution of the isocyanate was added dropwise to a solution in DMF (10 ml) of compound 1a (900 mg, 6 mmol) and the mixture was warmed at 80° C. for 8 hours. (TLC AcOEt). The solvent was evaporated and the crude was dissolved in AcOEt (50 ml) and washed with water (1×30 ml) and brine. The organic phase was dried over sodium sulfate and concentrated under vacuum. The purification of the crude residue by chromatographic column gave 420 mg of a white solid. Yield=23% 1HNMR (DMSO, 200 MHz) δ 4.29 (2H, d, J=6 Hz), 6.62 (1H, dd, J=7.6 Hz, J′=1.2 Hz), 6.80 (2H, m), 6.95 (1H, dd, J=8.2 Hz, J′=1.2 Hz), 7.15 (2H, m), 7.35 (2H, m), 8.23 (1H, bs), 9.96 (1H, bs), 10.59 (1H, bs); [M+1] 301.1 (C15H13FN4O2 requires 300.29).

reactant | p-fluorobenzylamine | 6.7 mmol, 0.76 ml | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | triphosgene | 1.98 g, 1 equiv. | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | isocyanate | [N-]=C=O
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | AcOEt | 40 ml | CCOC(=O)C | C4H8O2
product | 1-(4-fluorobenzyl)-3-(2,3-dihydro-2-oxo-1H-benzo[d]imidazol-4-yl)urea | 420 mg, Yield=23% | FC1=CC=C(CNC(=O)NC2=CC=CC=3NC(NC32)=O)C=C1 | C15H13FN4O2
